US07351733B2
N-phenyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 2,3,4,9-tetrahydro-1H-carbazol-1-one (150 mg, 0.81 mmol) and aniline (1.0 g, 11 mmol) in a similar manner as described above to give 24 mg (11%) of a white solid; 1H-NMR (DMSO-d6): δ 10.83 (s, 1H), 7.40 (d, 1H), 7.28 (d, 1H), 7.09 (t, 2H), 7.03 (t, 1H), 6.94 (t, 1H), 6.72 (d, 2H), 6.54 (t, 1H), 5.91 (d, 1H), 4.79-4.75 (m, 1H), 2.73-2.67 (m, 1H), 2.64-2.57 (m, 1H), 2.01-1.73 (m, 4H); MS m/z (M−93) 170.

reactant | 2,3,4,9-tetrahydro-1H-carbazol-1-one | 0.81 mmol, 150 mg | C1(CCCC=2C3=CC=CC=C3NC12)=O | C12H11NO
reactant | aniline | 11 mmol, 1.0 g | NC1=CC=CC=C1 | C6H7N
product | N-phenyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine | C1(=CC=CC=C1)NC1CCCC=2C3=CC=CC=C3NC12 | C18H18N2
